US07795236B2
tert-Butyl N-[3′-(3-benzyloxycarbonylaminopropoxy)-biphenyl-3-ylmethyl]carbamate
The title compound was prepared in a similar manner to that described in Reference Example 31 using tert-butyl N-(3′-hydroxybiphenyl-3-ylmethyl)carbamate instead of tert-butyl N-(3′-hydroxybiphenyl-4-ylmethyl)carbamate and N-(3-bromopropyl)phthalimide instead of N-(4-bromobutyl)phthalimide.

reactant | tert-butyl N-(3′-hydroxybiphenyl-3-ylmethyl)carbamate | OC=1C=C(C=CC1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O | C18H21NO3
reactant | N-(3-bromopropyl)phthalimide | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
product | tert-Butyl N-[3′-(3-benzyloxycarbonylaminopropoxy)-biphenyl-3-ylmethyl]carbamate | C(C1=CC=CC=C1)OC(=O)NCCCOC=1C=C(C=CC1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O | C29H34N2O5
